US07943609B2
A solution of (1R)-1-tetrahydro-2H-pyran-4-ylethane-1,2-diol (2.40 g, 16.2 mmol) in 60 mL of CH2Cl2 was cooled to 0° C. under N2. 2,6-Lutidine (3.77 mL, 32.4 mmol) and tert-butyldimethylsilyl chloride (2.57 g, 17.0 mmol) were added and the reaction mixture was stirred and allowed to warm to ambient temperature overnight. The reaction mixture was treated with saturated aqueous NH4Cl solution and the layers were separated. The organic portion was washed successively with aqueous 3.5% NaH2PO4 solution (2×), H2O and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 20% ethyl acetate/hexanes) gave 3.29 g of (1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-tetrahydro-2H-pyran-4-ylethanol as a colorless oil.

reactant | (1R)-1-tetrahydro-2H-pyran-4-ylethane-1,2-diol | 16.2 mmol, 2.40 g | O1CCC(CC1)[C@H](CO)O | C7H14O3
reactant | 2,6-Lutidine | 32.4 mmol, 3.77 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyldimethylsilyl chloride | 17.0 mmol, 2.57 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | (1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-tetrahydro-2H-pyran-4-ylethanol | 3.29 g | [Si](C)(C)(C(C)(C)C)OC[C@H](O)C1CCOCC1 | C13H28O3Si
